US05869493
b) (R)-2-Amino-9-(2-stearoyloxymethyl-4-(N-tert-butoxycarbonyl-L-valyloxy)butyl)purine
To the solution of (R)-2-amino-9-(2-stearoyloxymethyl-4-(N-tert-butoxycarbonyl-L-valyloxy)butyl)-6-chloropurine (240 mg, 0.33 mmole) in methanol/ethyl acetate (6 ml, 3:1 V/V) were added ammonium formate (105 mg, 1.65 mmole) and 10% palladium on carbon (15 mg). The reaction was kept under reflux for 1 hour and recharged with ammonium formate (70 mg). After one hour more the TLC showed completion of the reaction and the mixture was filtered through Celite and washed extensively with ethanol. The filtrate was evaporated and purified by silica gel column. Yield: 193 mg.

reactant | (R)-2-amino-9-(2-stearoyloxymethyl-4-(N-tert-butoxycarbonyl-L-valyloxy)butyl)-6-chloropurine | 0.33 mmole, 240 mg | NC1=NC(=C2N=CN(C2=N1)C[C@@H](CCOC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)COC(CCCCCCCCCCCCCCCCC)=O)Cl | C38H65ClN6O6
reactant | ammonium formate | 1.65 mmole, 105 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 70 mg | C(=O)[O-].[NH4+]
solvent | methanol ethyl acetate | 6 ml | CO.C(C)(=O)OCC
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
product | (R)-2-Amino-9-(2-stearoyloxymethyl-4-(N-tert-butoxycarbonyl-L-valyloxy)butyl)purine | NC1=NC=C2N=CN(C2=N1)C[C@@H](CCOC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)COC(CCCCCCCCCCCCCCCCC)=O | C38H66N6O6
